US07498325B2
d) 2,4-dihydro-5-phenyl-2-[1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-3H-1,2,4-triazol-3-one
The solutions of 5.56 g (0.0165 mol) of [1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-hydrazine in 60 ml of tetrahydrofuran and 3.7 g (0.0177 mol) of N-(ethoxycarbonyl)-benzothionamide in 30 ml of tetrahydrofuran were combined and refluxed for 1 hour, whereupon hydrogen sulphide was released. The solvent was distilled off in vacuo, the oily residue remaining was boiled with a little acetonitrile. The mixture was allowed to cool, then additionally cooled from outside with ice water and the resulting precipitate was suction filtered. 4.0 g (52% of theory) of colourless crystals were obtained, melting point 142° C. and Rf=0.38 (eluant 4).

reactant | [1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-hydrazine | 0.0165 mol, 5.56 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCC(CC1)NN | C20H23N3O2
reactant | hydrogen sulphide | S | H2S
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,4-dihydro-5-phenyl-2-[1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-3H-1,2,4-triazol-3-one | C1(=CC=CC=C1)C=1NC(N(N1)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C28H26N4O3
